US07435751B2
Step 4: Preparation of (R)-[3-(7-fluoro-2-oxo-1-propyl-2,3-dihydro-1H-indol-5-ylamino)-2-hydroxy-propyl]-carbamic acid tert-butyl ester
5-Amino-7-fluoro-1-propyl-1,3-dihydro-indol-2-one (0.500 g, 2.40 mmol), (S)-oxiranylmethyl-carbamic acid tert-butyl ester (0.417 g, 2.40 mmol) and lithium trifluoromethanesulfonate (0.368 g, 2.40 mmol) in acetonitrile (8 ml) are heated at 90° C. for 8 hours. The reaction mixture is diluted with ethyl acetate, washed with water and brine, dried (Na2SO4) and evaporated. Final purification by flash chromatography (70% Ethyl acetate/hexane) gives the title compound as a yellow solid. HPLC r.t. 4.30 min; MS for C19H28FN3O4 m/z 382.3 (M+H)+.

reactant | 5-Amino-7-fluoro-1-propyl-1,3-dihydro-indol-2-one | 2.40 mmol, 0.500 g | NC=1C=C2CC(N(C2=C(C1)F)CCC)=O | C11H13FN2O
reactant | (S)-oxiranylmethyl-carbamic acid tert-butyl ester | 2.40 mmol, 0.417 g | C(C)(C)(C)OC(NC[C@@H]1OC1)=O | C8H15NO3
reactant | lithium trifluoromethanesulfonate | 2.40 mmol, 0.368 g | FC(S(=O)(=O)[O-])(F)F.[Li+]
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-[3-(7-fluoro-2-oxo-1-propyl-2,3-dihydro-1H-indol-5-ylamino)-2-hydroxy-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC[C@@H](CNC=1C=C2CC(N(C2=C(C1)F)CCC)=O)O)=O | C19H28FN3O4
